US09169254B2
TEMPO (3.4 mg, 0.022 mmol) and iodobenzene diacetate (69.7 mg, 0.216 mmol) were added to a solution of 9-(3-methyl-oxetan-3-yl)-nonan-1-ol (21 mg, 0.098 mmol) in acetonitrile (0.2 ml)-water (0.1 ml) at room temperature, and the mixture was stirred at the same temperature for two hours. Water (0.1 ml) was then added to the reaction mixture at room temperature, and the mixture was stirred at the same temperature for one hour. A 10% aqueous citric acid solution (0.45 ml) was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water, a 10% aqueous sodium thiosulfate solution and saturated brine, dried over MgSO4 and concentrated under reduced pressure to give 9-(3-methyl-oxetan-3-yl)-nonanoic acid (22 mg, 100%).

reactant | TEMPO | 0.022 mmol, 3.4 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | iodobenzene diacetate | 0.216 mmol, 69.7 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | 9-(3-methyl-oxetan-3-yl)-nonan-1-ol | 0.098 mmol, 21 mg | CC1(COC1)CCCCCCCCCO | C13H26O2
reactant | citric acid | 0.45 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
solvent | Water | 0.1 ml | O | H2O
solvent | water | 0.1 ml | O | H2O
product | 9-(3-methyl-oxetan-3-yl)-nonanoic acid | 22 mg, 100% | CC1(COC1)CCCCCCCCC(=O)O | C13H24O3
